US06897224B2
5-[4-(5-Fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentylamino]quinoline-2-carboxylic acid amide
253 mg (0.53 mmol) of 5-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentylidenamino]quinoline-2-carboxylic acid amide is dissolved in 10 ml of tetrahydrofuran-methanol (50%) and mixed with 101 mg (2.65 mmol) of sodium borohydride. After 20 hours, the solvent is removed in a vacuum. The subsequent recrystallization of the residue from ethyl acetate-methanol and purification of the mother liquor that is concentrated by evaporation on silica gel with hexane-ethyl acetate (0-50%) yield 116 mg (46% of theory) of the product.

reactant | 5-[4-(5-fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentylidenamino]quinoline-2-carboxylic acid amide | 0.53 mmol, 253 mg | FC=1C=CC(=C(C1)C(CC(C=NC1=C2C=CC(=NC2=CC=C1)C(=O)N)(C(F)(F)F)O)(C)C)OC | C24H23F4N3O3
reactant | sodium borohydride | 2.65 mmol, 101 mg | [BH4-].[Na+]
solvent | tetrahydrofuran-methanol | 10 ml | O1C(CCC1)CO | C5H10O2
product | 5-[4-(5-Fluoro-2-methoxyphenyl)-2-hydroxy-4-methyl-2-trifluoromethylpentylamino]quinoline-2-carboxylic acid amide | FC=1C=CC(=C(C1)C(CC(CNC1=C2C=CC(=NC2=CC=C1)C(=O)N)(C(F)(F)F)O)(C)C)OC | C24H25F4N3O3
